### PR TITLE
Proper subset relations

### PR DESCRIPTION
**Pull request by uzytkownik**
Sorry if this is not notable enough changes. I needed to use well-founded induction over the subsets in my project for which I needed to define subset relationship and I decided to attempt to upstream my attempt (I haven't ported the well-founded relationship yet). I'm still learning AGDA so I'm sorry if code is unidiomatic et.c

I added `⊂′` as well to mirror the relation definition though I founded it more difficult to prove properties of.

### CODE REVIEW

File: CHANGELOG/v1.2.md [hunk 1]
```diff
@@ -506,6 +506,11 @@ Other minor additions
   tail : ∀ {i} {j : Size< i} → Stream A i → Stream A j
   ```
 
+* Added new proofs to `Data.Bool`:
```
Comment (MatthewDaggitt) [inline CHANGELOG/v1.2.md]: Thanks for adding a CHANGELOG entry, most people forget that! The only problems is that `v1.2` has now been released so the entry should go in `CHANGELOG.md` outside of this folder which for old changelogs only.

File: CHANGELOG/v1.2.md [hunk 2]
```diff
@@ -522,17 +527,29 @@ Other minor additions
...
   in⊆in-⇔       : p ⊆ q ⇔  inside ∷ p ⊆ inside ∷ q
+  s⊆s           : p ⊆ q →       s ∷ p ⊆      s ∷ q
 
   ∃-Subset-zero : ∃⟨ P ⟩ → P []
   ∃-Subset-[]-⇔ : P [] ⇔ ∃⟨ P ⟩
   ∃-Subset-suc  : ∃⟨ P ⟩ → ∃⟨ P ∘ (inside ∷_) ⟩ ⊎ ∃⟨ P ∘ (outside ∷_) ⟩
   ∃-Subset-∷-⇔  : (∃⟨ P ∘ (inside ∷_) ⟩ ⊎ ∃⟨ P ∘ (outside ∷_) ⟩) ⇔ ∃⟨ P ⟩
+
+  x∉∁s⇒x∈s : ∀ {n} → {x : Fin n} → {s : Subset n} → x ∉ ∁ s → x ∈ s
+  x∉s⇒x∈∁s : ∀ {n} → {x : Fin n} → {s : Subset n} → x ∉ s → x ∈ ∁ s
```
Comment (MatthewDaggitt) [inline CHANGELOG/v1.2.md]: To keep things tidy, we usually don't put implicit variables in the types in the CHANGELOG

File: src/Data/Fin/Subset/Properties.agda [hunk 3]
```diff
@@ -203,6 +256,171 @@ p⊆q⇒∣p∣<∣q∣ {p = outside ∷ p} {inside  ∷ q} p⊆q = ≤-step (p
...
+------------------------------------------------------------------------
+-- _⊂_
+
+p⊂q⇒p⊆q : ∀ {n} → {p q : Subset n} → p ⊂ q → p ⊆ q
+p⊂q⇒p⊆q = proj₁
+
+⊂-trans : ∀ {n} → Transitive (_⊂_ {n})
+⊂-trans (p⊆q , x , x∈q , x∉p) (q⊆r , _ , _ , _) = ⊆-trans p⊆q q⊆r , x , q⊆r x∈q , x∉p
+
+⊂-trans-⊆ : ∀ {n} → Trans (_⊂_ {n}) (_⊆_ {n}) (_⊂_ {n})
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: I think the standard name for this is `⊂-⊆-trans` (e.g. see [Data.Rational](https://github.com/agda/agda-stdlib/blob/b1cdd5d7dddf5251d5eda0cbf3711fa2bbd3bbb5/src/Data/Rational/Properties.agda#L357)). I think(?) you could also make the type clearer as `Trans {A = Subset n} _⊂_ _⊆_ _⊂_`

File: src/Data/Fin/Subset/Properties.agda [hunk 4]
```diff
@@ -203,6 +256,171 @@ p⊆q⇒∣p∣<∣q∣ {p = outside ∷ p} {inside  ∷ q} p⊆q = ≤-step (p
...
+⊂-trans-⊆ (p⊆q , x , x∈q , x∉p) q⊆r = ⊆-trans p⊆q q⊆r , x , q⊆r x∈q , x∉p
+
+⊆-trans-⊂ : ∀ {n} → Trans (_⊆_ {n}) (_⊂_ {n}) (_⊂_ {n})
+⊆-trans-⊂ p⊆q (q⊆r , x , x∈r , x∉q) = ⊆-trans p⊆q q⊆r , x , x∈r , λ x∈p → contradiction (p⊆q x∈p) x∉q
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: The last term of this can be simplified to `x∉q ∘ p⊆q`

File: src/Data/Fin/Subset/Properties.agda [hunk 5]
```diff
@@ -203,6 +256,171 @@ p⊆q⇒∣p∣<∣q∣ {p = outside ∷ p} {inside  ∷ q} p⊆q = ≤-step (p
...
+p⊂′q⇒∣p∣<∣q∣ {p = []} {[]} (p⊆q , q⊈p) = case q⊈p p⊆q of λ ()
+p⊂′q⇒∣p∣<∣q∣ {p = outside ∷ p} {outside ∷ q} op⊂′oq@(_ , _) = p⊂′q⇒∣p∣<∣q∣ (drop-∷-⊂′ op⊂′oq)
+p⊂′q⇒∣p∣<∣q∣ {p = outside ∷ p} {inside ∷ q} (op⊆iq , _) = s≤s (p⊆q⇒∣p∣<∣q∣ (drop-∷-⊆ op⊆iq))
+p⊂′q⇒∣p∣<∣q∣ {p = inside ∷ p} {outside ∷ q} (ip⊆oq , _) = contradiction (ip⊆oq here) (λ ())
+p⊂′q⇒∣p∣<∣q∣ {p = inside ∷ p} {inside ∷ q} ip⊂′iq@(ip⊆iq , _) = s≤s (p⊂′q⇒∣p∣<∣q∣ (drop-∷-⊂′ ip⊂′iq))
+
+------------------------------------------------------------------------
+-- ∁
+
+x∉∁s⇒x∈s : ∀ {n} → {x : Fin n} → {s : Subset n} → x ∉ ∁ s → x ∈ s
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: I think these last two will be significantly easier to prove by first proving the contrapositive (i.e. `x∈s⇒x∉∁s` and `x∈∁s⇒x∉s`) by induction.

File: src/Data/Fin/Subset/Properties.agda [hunk 6]
```diff
@@ -203,6 +256,171 @@ p⊆q⇒∣p∣<∣q∣ {p = outside ∷ p} {inside  ∷ q} p⊆q = ≤-step (p
...
+    { isEquivalence = isEquivalence
+    ; irrefl = ⊂-irref
+    ; trans = ⊂-trans
+    ; <-resp-≈ = (λ {refl → id}) , (λ {refl → id})
+    }
+
+  ⊂-strictPartialOrder : StrictPartialOrder _ _ _
+  ⊂-strictPartialOrder = record
+    { _≈_ = _≡_
+    ; _<_ = _⊂_
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: We usually omit these first two lines entirely from the record as it's nearly always obvious what the underlying relations are. Agda will then infer them for us.

File: src/Data/Fin/Subset/Properties.agda [hunk 7]
```diff
@@ -59,6 +67,51 @@ module _ {n} {p q : Subset n} where
   in⊆in-⇔ : p ⊆ q ⇔ inside ∷ p ⊆ inside ∷ q
   in⊆in-⇔ = equivalence in⊆in drop-∷-⊆
 
+  s⊆s : ∀ {s} →  p ⊆ q → s ∷ p ⊆ s ∷ q
+  s⊆s {.inside} p⊆q here = here
+  s⊆s {s} p⊆q (there ∈p) = there (p⊆q ∈p)
+
+  out⊂ : ∀ {y} → p ⊂ q → outside ∷ p ⊂ y ∷ q
+  out⊂ (p⊆q , x , x∈q , x∉p) = out⊆ p⊆q , suc x , there x∈q , λ {(there x∈p) → contradiction x∈p x∉p}
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: I think the last part can be simplified to `x∉p ∘ drop-there`

File: src/Data/Fin/Subset/Properties.agda [hunk 8]
```diff
@@ -59,6 +67,51 @@ module _ {n} {p q : Subset n} where
...
+  out⊂out-⇔ = equivalence out⊂ drop-∷-⊂
+
+  in⊂in : p ⊂ q → inside ∷ p ⊂ inside ∷ q
+  in⊂in (p⊆q , x , x∈q , x∉p) = in⊆in p⊆q , suc x , there x∈q , λ {(there x∈p) → contradiction x∈p x∉p}
+
+  in⊂in-⇔ : p ⊂ q ⇔ inside ∷ p ⊂ inside ∷ q
+  in⊂in-⇔ = equivalence in⊂in drop-∷-⊂
+
+drop-∷-⊂′ : ∀ {n s} {p₁ p₂ : Subset n} → s ∷ p₁ ⊂′ s ∷ p₂ → p₁ ⊂′ p₂
+drop-∷-⊂′ (sp₁⊆sp₂ , sp₂⊈sp₁) = drop-∷-⊆ sp₁⊆sp₂ , λ p₂⊂p₁ → sp₂⊈sp₁ (s⊆s p₂⊂p₁)
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: Again can be simplified to ` sp₂⊈sp₁ ∘ s⊆s`

File: src/Data/Fin/Subset/Properties.agda [hunk 9]
```diff
@@ -59,6 +67,51 @@ module _ {n} {p q : Subset n} where
   in⊆in-⇔ : p ⊆ q ⇔ inside ∷ p ⊆ inside ∷ q
   in⊆in-⇔ = equivalence in⊆in drop-∷-⊆
 
+  s⊆s : ∀ {s} →  p ⊆ q → s ∷ p ⊆ s ∷ q
+  s⊆s {.inside} p⊆q here = here
+  s⊆s {s} p⊆q (there ∈p) = there (p⊆q ∈p)
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Subset/Properties.agda]: Don't think you need the implicits here.

File: src/Data/Bool/Properties.agda [hunk 10]
```diff
@@ -586,6 +586,10 @@ not-involutive : Involutive not
 not-involutive true  = refl
 not-involutive false = refl
 
+not-injective : ∀ {x y} → not x ≡ not y → x ≡ y
+not-injective {false} {false} nx≢ny = refl
```
Comment (JacquesCarette) [inline src/Data/Bool/Properties.agda]: This proof is strict on the implicit arguments but lazy on the explicit argument - is this really what we want?

File: src/Data/Fin/Subset/Properties.agda [hunk 11]
```diff
@@ -41,9 +42,16 @@ open import Relation.Unary using (Pred; Decidable; Satisfiable)
...
 drop-there (there x∈p) = x∈p
 
+drop-not-there : ∀ {s n x} {p : Subset n} → suc x ∉ s ∷ p → x ∉ p
+drop-not-there x∉sp x∈p = contradiction (there x∈p) x∉sp
+
 drop-∷-⊆ : ∀ {n s₁ s₂} {p₁ p₂ : Subset n} → s₁ ∷ p₁ ⊆ s₂ ∷ p₂ → p₁ ⊆ p₂
 drop-∷-⊆ p₁s₁⊆p₂s₂ x∈p₁ = drop-there (p₁s₁⊆p₂s₂ (there x∈p₁))
 
+drop-∷-⊂ : ∀ {n s} {p₁ p₂ : Subset n} → s ∷ p₁ ⊂ s ∷ p₂ → p₁ ⊂ p₂
+drop-∷-⊂ {s = inside} (_ , zero , x∈sp₂ , x∉sp₁) = contradiction here x∉sp₁
```
Comment (JacquesCarette) [inline src/Data/Fin/Subset/Properties.agda]: Since you're case-splitting on the argument (the 2nd part of the 4-tuple, it seems), and don't use `s` at all, why bother defining/refining it?

File: src/Data/Bool/Properties.agda (hunk 10 above)
Comment (uzytkownik) [reply src/Data/Bool/Properties.agda]: AGDA rejects being strict in the explicit argument without being strict in implicit here. Do you want me to make it strict in all arguments?

File: src/Data/Fin/Subset/Properties.agda (hunk 11 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: AGDA does not typecheck otherwise.

File: CHANGELOG/v1.2.md (hunk 1 above)
Comment (uzytkownik) [reply CHANGELOG/v1.2.md]: I moved to CHANGELOG.md.

File: CHANGELOG/v1.2.md (hunk 2 above)
Comment (uzytkownik) [reply CHANGELOG/v1.2.md]: I've removed all implicit variables from CHANGELOG.

File: src/Data/Fin/Subset/Properties.agda (hunk 3 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: Done.

File: src/Data/Fin/Subset/Properties.agda (hunk 4 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: Done

File: src/Data/Fin/Subset/Properties.agda (hunk 5 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: I'm not sure how to get from there within intuitionistic logic though so I switched to induction for those functions.

File: src/Data/Fin/Subset/Properties.agda (hunk 6 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: Done.

File: src/Data/Fin/Subset/Properties.agda (hunk 7 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: Done.

File: src/Data/Fin/Subset/Properties.agda (hunk 8 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: Done.

File: src/Data/Fin/Subset/Properties.agda (hunk 9 above)
Comment (uzytkownik) [reply src/Data/Fin/Subset/Properties.agda]: Done.

File: src/Data/Bool/Properties.agda (hunk 10 above)
Comment (JacquesCarette) [reply src/Data/Bool/Properties.agda]: Can you not match just on 'refl' ?

File: src/Data/Fin/Subset/Properties.agda (hunk 11 above)
Comment (JacquesCarette) [reply src/Data/Fin/Subset/Properties.agda]: I see (and I think I get it).

File: src/Data/Bool/Properties.agda (hunk 10 above)
Comment (uzytkownik) [reply src/Data/Bool/Properties.agda]: I don't think so:

```
not-injective refl = refl
```

Results in:

```
I'm not sure if there should be a case for the constructor refl,
because I get stuck when trying to solve the following unification
problems (inferred index ≟ expected index):
  not x ≟ not y
when checking that the pattern refl has type not x ≡ not y
```

Comment (uzytkownik) [reply src/Data/Bool/Properties.agda]: You mean:

```agda
not-injective {false} {false} refl = refl
not-injective {true}  {true}  refl = refl
```

That's what I meant by being strict in all arguments.

Comment (JacquesCarette) [reply src/Data/Bool/Properties.agda]: I was just incorrect here.  not-injective really does need to pattern-match on its boolean inputs.  I think your original definition is fine, sorry for the noise.

**Comment by MatthewDaggitt** [comment]
Thanks for the changes. Looks good to me. I'll leave it up for another couple of days so that other people have the chance to give feedback and then I'll merge it in.
